US07576115B2
Synthesis of 4-{[2-(1-{4-hydroxy-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}-2-nitrobenzoic acid
From methyl 4-{[2-(1-{4-hydroxy-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}-2-nitrobenzoate (0.30 mmol, 150 mg) and 1 M sodium hydroxide aqueous solution (1.48 mL, 1.48 mmol), 106.0 mg of the desired product was obtained in the same manner as in Synthetic Example 58 as a pale yellow solid (yield 73%).

reactant | methyl 4-{[2-(1-{4-hydroxy-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}-2-nitrobenzoate | 0.30 mmol, 150 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=NNC(=O)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C22H18F3N5O6
reactant | sodium hydroxide | 1.48 mmol, 1 M, 1.48 mL | [OH-].[Na+]
product | 4-{[2-(1-{4-hydroxy-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonyl}-2-nitrobenzoic acid | 106.0 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=NNC(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C21H16F3N5O6
